US06593333B1
10% palladium on carbon (150 mg) was added to a stirred suspension of N-(3-nitro-4-methylphenyl)-3-morpholinobenzamide (1.40 g) in ethanol (100 ml) under argon. The argon atmosphere was replaced with hydrogen and the mixture was stirred at ambient temperature for 4 hours. The catalyst was removed by filtration through diatomaceous earth (Celite®) and the residue washed with methylene chloride. The filtrate was evaporated to give a solid which was triturated with ethyl acetate to yield N-(3-amino-4-methylphenyl)-3-morpholinobenzamide (1.02 g); NMR: 2.0 (s, 3H), 3.19 (t, 4H), 3.78 (t, 4H), 4.8 (s, 2H), 6.8 (m, 2H), 7.08 (s, 1H), 7.11 (d, 1H), 7.34 (m, 2H), 7.4 (s, 1H), 9.8 (s, 1H); m/z 312.

reactant | N-(3-nitro-4-methylphenyl)-3-morpholinobenzamide | 1.40 g | [N+](=O)([O-])C=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C18H19N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(3-amino-4-methylphenyl)-3-morpholinobenzamide | 1.02 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C18H21N3O2
